US08304557B2
N-[3-({2-[(2-chloropyrimidin-4-yl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide
A mixture of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (150 mg, 0.417 mmol), 2,4-dichloropyrimidine (63.8 mg, 0.428 mmol) and N,N-dimethylacetamide (5 mL) was stirred at room temperature for 20 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→100% ethyl acetate-hexane→2% methanol-ethyl acetate) to give the title compound (38.8 mg, 20%) as a white solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 0.417 mmol, 150 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C20H17N5O2
reactant | 2,4-dichloropyrimidine | 0.428 mmol, 63.8 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[3-({2-[(2-chloropyrimidin-4-yl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide | 38.8 mg, 20% | ClC1=NC=CC(=N1)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C24H18ClN7O2
